US08258130B2
A solution of (5-fluoro-1H-indol-3-yl)-acetic acid (1 g, 5.2 mmol) in MeOH (20 mL) is treated with sulfuric acid (20 μL) and stirred at rt for 1 h. This mixture is treated with 10% aqueous NaHCO3 (200 μL) and then concentrated in vacuo to afford (5-fluoro-1H-indol-3-yl)-acetic acid methyl ester, which is used in the next step without further purification. MS: 208 (M+H); 1H NMR (300 MHz, CD3OD): δ 3.68 (s, 3H), 3.72 (s, 2H), 6.86 (m, 1H), 7.16 (m, 1H), 7.21 (s, 1H), 7.28 (m, 1H).

reactant | (5-fluoro-1H-indol-3-yl)-acetic acid | 5.2 mmol, 1 g | FC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H8FNO2
reactant | sulfuric acid | 20 μL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | 200 μL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (5-fluoro-1H-indol-3-yl)-acetic acid methyl ester | COC(CC1=CNC2=CC=C(C=C12)F)=O | C11H10FNO2
